US05350748
3-Dimethylamino-5-(methylthio)benzo[b]thiophene-2-carboxamide
Prepared from methyl 3-dimethylamino-5-(methylthio)benzo[b]thiophene-2-carboxylate by reaction with lithium amide as described in Example 19. Purification of the crude product by flash chromatography (silica gel, elution with 30% ethyl acetate in hexane) gives 64% of product; mp=140°-142° C.

reactant | methyl 3-dimethylamino-5-(methylthio)benzo[b]thiophene-2-carboxylate | CN(C=1C2=C(SC1C(=O)OC)C=CC(=C2)SC)C | C13H15NO2S2
reactant | lithium amide | [NH2-].[Li+]
product | 3-Dimethylamino-5-(methylthio)benzo[b]thiophene-2-carboxamide | 64% | CN(C=1C2=C(SC1C(=O)N)C=CC(=C2)SC)C | C12H14N2OS2
